US07288537B2
1-{(S)-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea—Example 199
This compound is prepared analogously to 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea in Example 88 except using (S)-2-amino-4-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride in place of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride.

reactant | 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)CC)C)C=C1 | C20H28ClN5O3
reactant | (S)-2-amino-4-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride | Cl.N[C@H](CO)CCN1CC(C1)OC1=CC=C(C=C1)F
product | 1-{(S)-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea | FC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)CC)C)C=C1 | C20H28FN5O3
